US05840917
5-Trimethylsilyl-3-furancarboxylic acid (4.1 g) (synthesized in accordance with the method described in Tetrahedron Lett., 25, 4451 (1984)) was dissolved in tetrahydrofuran (100 ml), and N,N-dimethylformamide (3 drops) was added. Oxalyl chloride (3.0 g) was added dropwise under ice-cooling, and the mixture was stirred at room temperature for 30 minutes. Ethanol (100 ml) and triethylamine (4.7 g) were added, and the resulting mixture was stirred at room temperature for 15 hours. The mixture as concentrated under reduced pressure, and water was added to the residue. The mixture was extracted with ethyl acetate, and the extract was washed with water and saturated aqueous sodium chloride, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography, and the desired fractions were concentrated under reduced pressure to give 5-trimethylsilyl-3-furancarboxylic acid ethyl ester (3.0 g) as oil. 5-Trimethylsilyl-3-furancarboxylic acid ethyl ester (3.0 g) was dissolved in acetonitrile (15 ml), and sulfuryl chloride (2.0 g) in acetonitrile (5 ml) was added dropwise. The mixture was stirred at room temperature for 30 minutes, poured into ice water and extracted with diethyl ether. The extract was washed with 10% aqueous sodium thiosulfate and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography, and the desired fractions were concentrated under reduced pressure to give 5-chloro-3-furancarboxylic acid ethyl ester (1.9 g) as oil. 5-Chloro-3-furancarboxylic acid ethyl ester (1.9 g) was dissolved in ethanol (15 ml), and 1N aqueous sodium hydroxide (12 ml) was added. The mixture was stirred at room temperature for 1.5 hour and concentrated under reduced pressure. The residue was dissolved in water and washed with diethyl ether. The aqueous layer was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The extract was washed with water and saturated aqueous sodium chloride, dried over anhydrous magensium sulfate and concentrated under reduced pressure. Precipaitated crystals were collected by filtration and washed with hexane to give 5-chloro-3-furancarboxylic acid (1.1 g) as crystals.

reactant | 5-Trimethylsilyl-3-furancarboxylic acid | 4.1 g | C[Si](C1=CC(=CO1)C(=O)O)(C)C | C8H12O3Si
reactant | Oxalyl chloride | 3.0 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Ethanol | 100 ml | C(C)O | C2H6O
reactant | triethylamine | 4.7 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | N,N-dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
product | 5-trimethylsilyl-3-furancarboxylic acid ethyl ester | 3.0 g | C(C)OC(=O)C1=COC(=C1)[Si](C)(C)C | C10H16O3Si
